US07714010B2
(A38) 5-Amino-3,3-dimethyl-6-nitro-1-(tetrahydro-furan-2-ylmethyl)-1,3-dihydro-indol-2-one
Analogously to general procedure (I) N-(3,3-dimethyl-6-nitro-2-oxo-2,3-dihydro-1H-indol-5-yl)-acetamide (2 g) is alkylated using 2-bromomethyl-tetrahydro-furan (1.7 ml; 15.2 mmol) and K2CO3 (2.1 g; 15.2 mmol) at 30° C. for 3 days. After aqueous work-up the crude material is de-acetylated in MeOH (150 ml) using DBU (2,3 ml) at reflux. After aqueous work-up and purification by RP chromatography 5-amino-3,3-dimethyl-6-nitro-1-(tetrahydro-furan-2-ylmethyl)-1,3-dihydro-indol-2-one (1.88 g) is obtained.

reactant | N-(3,3-dimethyl-6-nitro-2-oxo-2,3-dihydro-1H-indol-5-yl)-acetamide | 2 g | CC1(C(NC2=CC(=C(C=C12)NC(C)=O)[N+](=O)[O-])=O)C | C12H13N3O4
reactant | 2-bromomethyl-tetrahydro-furan | 15.2 mmol, 1.7 ml | BrCC1OCCC1 | C5H9BrO
reactant | K2CO3 | 15.2 mmol, 2.1 g | C(=O)([O-])[O-].[K+].[K+]
reactant | DBU | 2,3 ml | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | MeOH | 150 ml | CO | CH4O
product | 5-Amino-3,3-dimethyl-6-nitro-1-(tetrahydro-furan-2-ylmethyl)-1,3-dihydro-indol-2-one | NC=1C=C2C(C(N(C2=CC1[N+](=O)[O-])CC1OCCC1)=O)(C)C | C15H19N3O4
